US04267184
Following the procedure of Example 1, reaction of 2,3-bis(4-methoxyphenyl)pyrrole with trifluoromethanesulfenyl chloride gave 4,5-bis(4-methoxyphenyl)-2-(trifluoromethylthio)pyrrole as a white solid, m.p. 114°-115°.

reactant | 2,3-bis(4-methoxyphenyl)pyrrole | COC1=CC=C(C=C1)C=1NC=CC1C1=CC=C(C=C1)OC | C18H17NO2
reactant | trifluoromethanesulfenyl chloride | FC(SCl)(F)F | CClF3S
product | 4,5-bis(4-methoxyphenyl)-2-(trifluoromethylthio)pyrrole | COC1=CC=C(C=C1)C=1C=C(NC1C1=CC=C(C=C1)OC)SC(F)(F)F | C19H16F3NO2S
